**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 3
* SIMULATION TYPE: dc_sweep
**********************************************************

* Define the temperature
.TEMP 25

* Include the dut file
.INCLUDE ../../../src/templates/bsim4/nmos/dut.cir

** Start testbenches

********************* dut testbench 5_0 *********************
v_ds_5_0 d_5_0 0 0.05
e_gs_5_0 g_5_0 0 v_sweep 0 1
v_s_5_0 s_5_0 0 0
v_bs_5_0 b_5_0 0 -1.0
x_5_0 d_5_0 g_5_0 s_5_0 b_5_0 dut w=1e-05 l=1e-05 m=1
*************************************************************

********************* dut testbench 5_1 *********************
v_ds_5_1 d_5_1 0 0.05
e_gs_5_1 g_5_1 0 v_sweep 0 1
v_s_5_1 s_5_1 0 0
v_bs_5_1 b_5_1 0 -0.5
x_5_1 d_5_1 g_5_1 s_5_1 b_5_1 dut w=1e-05 l=1e-05 m=1
*************************************************************

********************* dut testbench 6_1 *********************
v_ds_6_1 d_6_1 0 0.05
e_gs_6_1 g_6_1 0 v_sweep 0 1
v_s_6_1 s_6_1 0 0
v_bs_6_1 b_6_1 0 -0.5
x_6_1 d_6_1 g_6_1 s_6_1 b_6_1 dut w=1e-05 l=1e-05 m=1
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0
.dc v_sweep -0.5 1.6 0.09999999999999998

********** Start of control section **********
.control

** Change model parameters.
alterparam dut a0 = 1.0
alterparam dut a1 = 0.0
alterparam dut a2 = 1.0
alterparam dut acde = 1.0
alterparam dut ags = 0.0
alterparam dut cf = 0.0
alterparam dut cgdl = 1e-10
alterparam dut cgdo = 1e-10
alterparam dut ckappas = 0.6
alterparam dut clc = 1e-07
alterparam dut cle = 0.6
alterparam dut dlc = 0.0
alterparam dut drout = 0.56
alterparam dut dsub = 0.56
alterparam dut dvt0 = 2.2
alterparam dut dvt0w = 0.0
alterparam dut dvt1 = 0.53
alterparam dut dvt1w = 5300000.0
alterparam dut dvt2 = 1*-0.032
alterparam dut dvt2w = 1*-0.032
alterparam dut dwg = 0.0
alterparam dut eta0 = 0.08
alterparam dut etab = 1*-0.07
alterparam dut k1 = 0.53
alterparam dut k2 = 1*-0.0186
alterparam dut k3 = 80.0
alterparam dut k3b = 0.0
alterparam dut keta = 1*-0.0047
alterparam dut lint = 0.0
alterparam dut ll = 0.0
alterparam dut moin = 15.0
alterparam dut ndep = 1e+17
alterparam dut nfactor = 1.0
alterparam dut ngate = 1e+20
alterparam dut noff = 1.0
alterparam dut pclm = 1.3
alterparam dut pdiblc1 = 0.39
alterparam dut pdiblc2 = 0.086
alterparam dut pdiblcb = 0.0
alterparam dut pvag = 0.0
alterparam dut rdsw = 200.0
alterparam dut toxp = 5e-09
alterparam dut u0 = 670.0
alterparam dut ua = 1e-09
alterparam dut ub = 1e-19
alterparam dut uc = 1*-4.65e-11
alterparam dut voff = 1*-0.08
alterparam dut voffcv = 0.0
alterparam dut vsat = 80000.0
alterparam dut vth0 = 0.5
alterparam dut w0 = 2.5e-06
alterparam dut wint = 0.0
alterparam dut ww = 0.0
alterparam dut wwl = 0.0
alterparam dut lwl = 0.0
alterparam dut voffl = 0.0
alterparam dut xpart = 0.0
alterparam dut bin_pvsat = 0.0
alterparam dut bin_prdsw = 0.0
alterparam dut bin_ppclm = 0.0
alterparam dut bin_wketa = 0.0
alterparam dut bin_lketa = 0.0
alterparam dut bin_pketa = 0.0
alterparam dut bin_wk3 = 0.0
alterparam dut bin_wk3b = 0.0
reset

** Run the simulation.
run

let ids_5_0 = i(v_s_5_0)
let vgs_5_0 = v(g_5_0)
let ids_5_1 = i(v_s_5_1)
let vgs_5_1 = v(g_5_1)
let ids_6_1 = i(v_s_6_1)
let vgs_6_1 = v(g_6_1)

** Save the output to file.
set wr_vecnames
set wr_singlescale
wrdata /home/gazi/Desktop/Work/custom_packages/calibration/test/bsim4/results/dc_sweep_3.csv ids_5_0 vgs_5_0 ids_5_1 vgs_5_1 ids_6_1 vgs_6_1

.endc
********** End of control section **********

.end